US05011774
This mixture of anomers (1.66 g) was treated with 170 mL of methanol saturated with ammonia. This was tightly stoppered and stirred at 18° C. for 48 hrs. TLC indicated that reaction was incomplete. The solvent was evaporated and replaced with 170 mL of fresh ammonia solution in methanol. TLC after an additional 48 hr implied the reaction was complete. Hence, the solvent was evaporated and ethanol was added (5 mL). This yielded colorless crystals which were collected and washed with (5 mL) of 95% ethanol to yield 1.20 g (95%) of 2', 3'-dideoxyadenosine 5a together with its α anomer 5b in a 1:1 ratio by 1H-NMR. The α+β2',3'-dideoxyadenosine mixture was dissolved in 50 mL of deionized water and to this solution was added 10 mg of adenosine deaminase (type II, from Sigma; 9 units/mg→.9 μmole/min). The solution was stirred at 20° C. and reaction monitored by HPLC. After 2 hrs 30 min another 10 mg of adenosine deaminase was added. HPLC showed the reaction was nearly complete after 3 hrs. The reaction was then concentrated (1-2 mL) at 35° C. to give an oil. The oil was scratched and slowly diluted with 2×1.5 mL portions of methanol which produced white crystals. After 15 min the material was filtered and the colorless crystals washed with 2×1.5 mL portions of methanol to yield 2', 3'-dideoxyinosine (120 mg, 48%). The mother liquor was treated as above to yield an additional 29 mg (12%) of good quality product, which was characterized by 1H-NMR. The nuclear magnetic resonance spectrum was consistent with the structure.

reactant | adenosine | 10 mg | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | adenosine | 10 mg | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | water | 50 mL | O | H2O
solvent | methanol | CO | CH4O
product | 2', 3'-dideoxyinosine | 120 mg, 48% | [C@@H]1(CC[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O3
